US08541380B2
Step 5: 3-(2-Chloro-5-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-6-ethoxypyridazine
To a solution of 3-(chloro(2-chloro-5-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenyl)methyl)-6-ethoxypyridazine (589 mg; 0.73 mmol) in anhydrous toluene (10 mL) was added catalytic amounts of AIBN and tributyltin hydride (0.3 mL; 1.10 mmol) at room temperature under nitrogen gas. The reaction solution was then heated at 80° C. until reaction was completed. The solution was coded to room temperature and toluene was removed on evaporator. The crude α/β mixture was purified by silica gel column chromatography with KF pad (eluent: hexane/EtOAc mixture (60/40; v/v)). The purified α/β mixture was separated by using Gilson prep HPLC system and then obtained α configured product (123 mg; 0.16 mmol) and β configured product (105 mg; 0.14 mmol) as colorless oil.

reactant | 3-(chloro(2-chloro-5-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenyl)methyl)-6-ethoxypyridazine | 0.73 mmol, 589 mg | ClC(C=1N=NC(=CC1)OCC)C1=C(C=CC(=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)Cl | C47H46Cl2N2O6
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | tributyltin hydride | 1.10 mmol, 0.3 mL | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Chloro-5-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-6-ethoxypyridazine | ClC1=C(CC=2N=NC(=CC2)OCC)C=C(C=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C47H47ClN2O6
